US07858632B2
Step 6. (8-Bromo-5-ethyl-2,3-dihydro-benzo[1,4]dioxin-6-yloxy)-acetonitrile
8-Bromo-5-ethyl-2,3-dihydro-benzo[1,4]dioxin-6-ol (3.182 g, 12.3 mmol), as described in the procedure of Step 6 of Example 21, was converted to cyanomethyl ether 8-Bromo-5-ethyl-2,3-dihydro-benzo[1,4]dioxin-6-yloxy)-acetonitrile (2.30 g, 63%).

reactant | 8-Bromo-5-ethyl-2,3-dihydro-benzo[1,4]dioxin-6-ol | 12.3 mmol, 3.182 g | BrC1=CC(=C(C2=C1OCCO2)CC)O | C10H11BrO3
reactant | acetonitrile | 2.30 g | C(C)#N | C2H3N
product | (8-Bromo-5-ethyl-2,3-dihydro-benzo[1,4]dioxin-6-yloxy)-acetonitrile | BrC1=CC(=C(C2=C1OCCO2)CC)OCC#N | C12H12BrNO3
